US07262182B2
5-Hydroxy-3-thiapentyl N,N,N′,N′-tetrakis(2-chloroethyl)phosphorodiamidate, 174 mg (0.387 mmol), and N,N,N′N′-tetrakis(2-chloroethyl)phosphorodiamidoyl chloride, 363 mg (0.996 mmol), were dissolved in 15 mL anhydrous tetrahydrofuran and cooled to 0-5° C. in an ice-water bath. Potassium tert-butoxide, 0.4 mL of 1 M solution in tetrahydrofuran (0.4 mmol), was added over a 10-15 minute period, and the reaction mixture kept at 0-5° C. for another 30 minutes under nitrogen. The reaction mixture was allowed to warm to room temperature and stirred at room temperature for 43 hours. Additional potassium tert-butoxide and N,N,N′,N′-tetrakis(2-chloroethyl)phosphorodiamidoyl chloride were added over the next 4 days to drive the reaction to completion. After 4.5 days, the reaction mixture was diluted with ethyl acetate; and the ethyl acetate layer separated, washed with water and brine, then dried over anhydrous magnesium sulfate, and the ethyl acetate removed under vacuum. The crude di[2-[[bis[bis(2-chloroethyl)amino]phosphinyl]oxy]ethyl]sulfide, 630 mg, was twice purified by preparative HPLC, and the product fractions combined and lyophilized, giving di[2-[[bis[bis(2-chloroethyl)amino]phosphinyl]oxy]ethyl]sulfide, compound 1CC, as a colorless oil, compound 1CC, 56 mg (18% yield), identified by HPLC and 1H and 31P NMR. Mass spectrum: 779 (C20H40Cl8N4O4P2S+4+H+).

reactant | 5-Hydroxy-3-thiapentyl N,N,N′,N′-tetrakis(2-chloroethyl)phosphorodiamidate | ClCCN(P(OCCSCCO)(=O)N(CCCl)CCCl)CCCl | C12H25Cl4N2O3PS
reactant | Potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | N,N,N′,N′-tetrakis(2-chloroethyl)phosphorodiamidoyl chloride | ClCCN(P(=O)(N(CCCl)CCCl)Cl)CCCl | C8H16Cl5N2OP
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 0.4 mmol | O1CCCC1 | C4H8O
product | di[2-[[bis[bis(2-chloroethyl)amino]phosphinyl]oxy]ethyl]sulfide | 18% yield | ClCCN(CCCl)P(=O)(OCCSCCOP(=O)(N(CCCl)CCCl)N(CCCl)CCCl)N(CCCl)CCCl | C20H40Cl8N4O4P2S
